US07981874B2
diethyl [({[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl}amino)methyl]phosphonate (360 mg, 0.628 mmol) was taken up in DCM (6 mL)/TFA (2 mL). After 4 hours at room temperature, the solvent was removed in vacuo, saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo to give diethyl [({[4-({[2-amino-5-(2-thienyl)phenyl]amino) carbonyl}phenyl]methyl}amino)methyl]phosphonate as a beige solid. 1H NMR (DMSO-d6, 600 MHz) δ 9.67 (s, 1H), 7.93 (d, J=8.4 Hz, 2H), 7.43 (m, 3H), 7.32 (dd, J=4.8 and 0.6 Hz, 1H), 7.26 (dd, J=8.4 and 1.8 Hz, 1H), 7.21 (m, 1H), 7.01 (dd, J=5.4 and 3.6 Hz, 1H), 6.78 (d, J=8.4 Hz, 1H), 5.12 (s, 2H), 3.99 (m, 4H), 3.81 (s, 2H), 2.81 (d, J=12.0 Hz, 2H), 2.40 (br s, 1H), 1.20 (t, J=7.2 Hz, 6H). MS: cal'd 474 (MH+), exp 474.

reactant | diethyl [({[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl}amino)methyl]phosphonate | 0.628 mmol, 360 mg | CC(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CNCP(OCC)(OCC)=O | C28H36N3O6PS
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | diethyl [({[4-({[2-amino-5-(2-thienyl)phenyl]amino) carbonyl}phenyl]methyl}amino)methyl]phosphonate | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CNCP(OCC)(OCC)=O | C23H28N3O4PS
